US07713993B2
Synthesis of 5-chloro-2-(3,4,5-trifluorophenyl)pentanoic acid N′-{(E)-3-[2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide
IPEA (0.31 mL) and BOPCl (119 mg) were added to a solution of 5-chloro-2-(3,4,5-trifluorophenyl)pentanoic acid hydrazide hydrochloride (114 mg) and (E)-3-[2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (99 mg) in methylene chloride (5 mL), and the reaction solution was stirred at room temperature for one hour. Ethyl acetate and saturated aqueous ammonium chloride solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 200 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 0.31 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOPCl | 119 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 5-chloro-2-(3,4,5-trifluorophenyl)pentanoic acid hydrazide hydrochloride | 114 mg | Cl.ClCCCC(C(=O)NN)C1=CC(=C(C(=C1)F)F)F
reactant | (E)-3-[2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 99 mg | FC1=C(C=C(C(=C1)N1C=NC(=C1)C)OC)/C=C/C(=O)O | C14H13FN2O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-(3,4,5-trifluorophenyl)pentanoic acid N′-{(E)-3-[2-fluoro-5-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide | 200 mg | FC1=C(C=C(C(=C1)N1C=NC(=C1)C)OC)/C=C/C(=O)NNC(C(CCCCl)C1=CC(=C(C(=C1)F)F)F)=O | C25H23ClF4N4O3
